US05945431
compound #21 N-(2-methylthiobenzyl)-2-[1,6]naphthyridine carboxamide
To a stirring mixture of 2-methylsulfanylbenzylamine hydrochloride (81.7 mg, 0.431) in anhydrous DMF (1.0 mL) was added triethylamine (60.0 μL, 0.431 mmol). After 5 minutes, 2-[1,6]naphthyridinecarboxylic acid (50 mg, 0.287 mmol), 1-hydroxybenzotriazole hydrate (42.7 mg, 0.316 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarboiimide hydrochloride (61.8 mg, 0.316 mmol) were added sequentially. The resulting mixture was allowed to stir at room temperature overnight. The solvent was removed under vacuum. Flash column chromatography of the residue (50% hexane/ethyl acetate to 100% ethyl acetate) afforded the desired product as a light brown solid (88.2 mg, 99%): m.p. 102-103° C.

reactant | 2-methylsulfanylbenzylamine hydrochloride | 81.7 mg | Cl.CSC1=C(CN)C=CC=C1
reactant | triethylamine | 0.431 mmol, 60.0 μL | C(C)N(CC)CC | C6H15N
reactant | 2-[1,6]naphthyridinecarboxylic acid | 0.287 mmol, 50 mg | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.316 mmol, 42.7 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(2-methylthiobenzyl)-2-[1,6]naphthyridine carboxamide | 88.2 mg, 99% | CSC1=C(CNC(=O)C2=NC3=CC=NC=C3C=C2)C=CC=C1 | C17H15N3OS
